US04900743
2,4-Dihydro-4-methyl-5-(2-thienyl)-3H-1,2,4-triazole-3-thione
1-(2-Thenoyl)-4-methylthiosemicarbazide (7.1 g, 3.3×10-2 mole) and 1 molar aqueous NaHCO3 (330 ml, 3.30×10-1 mole) were stirred and heated to reflux. After refluxing about 14 hours the reaction was filtered while hot and the filtrate was then cooled in an ice bath. Acidification by the dropwise addition of concentrated HCl (28 ml, 3.4×10-1 mole) gave a colorless precipitate which was collected by filtration, washed with a little cold H2O, and dried by suction. Crystallization from isopropanol gave colorless spears: 5.0 g (77%), mp 155°-157° C.

reactant | 1-(2-Thenoyl)-4-methylthiosemicarbazide | 3.3×10-2 mole, 7.1 g | C1(=CC=CS1)C(=O)NNC(=S)NC | C7H9N3OS2
reactant | NaHCO3 | 3.30×10-1 mole, 1 molar, 330 ml | C(=O)(O)[O-].[Na+]
reactant | HCl | 3.4×10-1 mole, 28 ml | Cl | ClH
product | 2,4-Dihydro-4-methyl-5-(2-thienyl)-3H-1,2,4-triazole-3-thione | CN1C(NN=C1C=1SC=CC1)=S | C7H7N3S2
